US09382237B2
3-((3-amino-2-cyano-1-(methylthio)-3-oxoprop-1-en-1-yl)amino)benzoic acid was then suspended in 10 mL EtOH and hydrazine hydrate (124 μL, 1.0 eq.) was added dropwise. Reaction was heated at 75° C. until intermediate was absent (HPLC). Once intermediate was absent (18 hrs), reaction was brought to room temperature and filtered to obtain 4-((5-amino-4-carbamoyl-1H-pyrazol-3-yl)amino)benzoic acid as a yellow powder. Product was allowed to dry under vacuum for 1 hr.

reactant | 3-((3-amino-2-cyano-1-(methylthio)-3-oxoprop-1-en-1-yl)amino)benzoic acid | NC(C(=C(SC)NC=1C=C(C(=O)O)C=CC1)C#N)=O | C12H11N3O3S
reactant | hydrazine hydrate | 124 μL, 1.0 eq. | O.NN
reactant | EtOH | 10 mL | CCO | C2H6O
product | 4-((5-amino-4-carbamoyl-1H-pyrazol-3-yl)amino)benzoic acid | NC1=C(C(=NN1)NC1=CC=C(C(=O)O)C=C1)C(N)=O | C11H11N5O3
